US07402606B2
Phosgene (1.04 mL, 1.93 M, 2.00 mmol) was added dropwise to a solution of (S)-(+)-pantolactone (130 mg, 1.00 mmol) and quinoline (0.241 mL, 2.00 mmol) in anhydrous tetrahydrofuran (3 mL) at 0° C. under nitrogen. The cold bath was removed, and the mixture was stirred for 18 h at room temperature. Volatiles were then removed under vacuum, and the resulting solid was slurried in anhydrous tetrahydrofuran (4 mL) under nitrogen. A solution of triethylamine (0.153 mL, 1.10 mmol) and (3S)-3-amino-2-hydroxy-N-[(1R)-1-phenylethyl]heptanamide (264 mg, 1.00 mmol) in anhydrous tetrahydrofuran was added. The resulting mixture was stirred for 18 h, and was then partitioned between ethyl acetate (70 mL) and 1 N hydrochloric acid (35 mL). The ethyl acetate layer was washed further with two 35 mL portions of 1 N hydrochloric acid, followed by saturated aqueous sodium chloride (35 mL). After drying over magnesium sulfate, volatiles were removed to afford (3S)-4,4-dimethyl-2-oxotetrahydro-3-furanyl (1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate as a tan oil (358 mg, 85%).

reactant | Phosgene | 2.00 mmol, 1.93 M, 1.04 mL | C(=O)(Cl)Cl | CCl2O
reactant | (S)-(+)-pantolactone | 1.00 mmol, 130 mg | CC1(COC(=O)[C@H]1O)C | C6H10O3
reactant | quinoline | 2.00 mmol, 0.241 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | triethylamine | 1.10 mmol, 0.153 mL | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-amino-2-hydroxy-N-[(1R)-1-phenylethyl]heptanamide | 1.00 mmol, 264 mg | N[C@H](C(C(=O)N[C@H](C)C1=CC=CC=C1)O)CCCC | C15H24N2O2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (3S)-4,4-dimethyl-2-oxotetrahydro-3-furanyl (1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate | 358 mg, 85% | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCC)NC(O[C@@H]1C(OCC1(C)C)=O)=O | C22H32N2O6
